US07148217B2
Step C: Preparation of 8-methyl-2H-3,1-benzoxazine-2,4(1H)-dione
To a solution of 2-amino-3-methylbenzoic acid (6 g) in dry 1,4-dioxane (50 mL) was added dropwise a solution of trichloromethyl chloroformate (8 mL) in dry 1,4-dioxane (25 mL), with ice-water cooling to keep the reaction temperature below 25° C. A white precipitate began to form during the addition. The reaction mixture was stirred at room temperature overnight. The precipitated solids were removed by filtration and washed with 1,4-dioxane (2×20 mL) and hexane (2×15 mL) and air-dried to yield 6.51 g of off-white solid.

reactant | 2-amino-3-methylbenzoic acid | 6 g | NC1=C(C(=O)O)C=CC=C1C | C8H9NO2
reactant | trichloromethyl chloroformate | 8 mL | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 8-methyl-2H-3,1-benzoxazine-2,4(1H)-dione | 6.51 g | CC1=CC=CC=2C(OC(NC21)=O)=O | C9H7NO3
